US07186716B2
Aluminum chloride (1.33 g, 10 mmol) was added to a mixture of 3-phenyl-1H-pyrrole (1.35 g, 9.4 mmol, prepared as described in Journal of Organic Chemistry, 62: 2650 (1997) (incorporated herein by reference) and 2-chloronicotinoyl chloride (1.65 g, 9.4 mmol) in DCM (15 mL) at 0° C. The mixture was stirred at 0° C. for 30 mins and at room temperature for one hour. The reaction was diluted with ethyl acetate and washed with brine, 2N NaOH, brine, dried and concentrated. The residue was purified on silica gel column to give 0.682 g (26%) of (2-chloro-pyridin-3-yl)-(3-phenyl-1H-pyrrol-2-yl)-methanone.

reactant | Aluminum chloride | 10 mmol, 1.33 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-phenyl-1H-pyrrole | C1(=CC=CC=C1)C1=CNC=C1 | C10H9N
reactant | 2-chloronicotinoyl chloride | 9.4 mmol, 1.65 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-chloro-pyridin-3-yl)-(3-phenyl-1H-pyrrol-2-yl)-methanone | 0.682 g, 26% | ClC1=NC=CC=C1C(=O)C=1NC=CC1C1=CC=CC=C1 | C16H11ClN2O
